US05082951
To a solution of 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole (1.00 g, 2.80 mmol) and anhydrous sodium acetate (4.60 mg, 5.6 mmol) in acetic acid (20 mL) is added manganese(III) acetate dihydrate (2.25 g, 8.4 mmol) The mixture was stirred for two hours at 80° C. The reaction mixture was diluted with diethyl ether (100 mL), and filtered. The resulting solution was washed with water (2×25 mL), 10% sodium hydroxide (2×30 mL), and water (2×25 mL), dried (Na2SO4) and concentrated under reduced pressure. The crude oil was purified by flash chromatography on silica eluting with hexane/ethyl acetate (90:10-80:20) to yield 800 mg (80%) of diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate.

reactant | 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole | 2.80 mmol, 1.00 g | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)CCC(C(=O)OCC)C(=O)OCC | C20H23NO5
reactant | sodium acetate | 5.6 mmol, 4.60 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | manganese(III) acetate dihydrate | 8.4 mmol, 2.25 g | O.O.C(C)(=O)[O-].[Mn+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate | 800 mg, 80% | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)(C(=O)OCC)C(=O)OCC | C20H21NO5
